US05314864
A mixture of 6-amino-7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-one (2.1 g), N,N-diethylaniline (1.5 g) and methyl chloroformate (1.0 g) was dissolved in 1,2-dichloroethane (10 g), and the resultant mixture was heated under reflux for 3 hours. After cooling, the reaction mixture was washed with water, and the organic layer was concentrated. The residue was washed with methanol to give 7-fluoro-6-methoxycarbonylamino-4-propargyl-2H-1,4-benzoxazin-3(4H)-one (2.0 g).

reactant | 6-amino-7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-one | 2.1 g | NC=1C(=CC2=C(N(C(CO2)=O)CC#C)C1)F | C11H9FN2O2
reactant | N,N-diethylaniline | 1.5 g | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | methyl chloroformate | 1.0 g | ClC(=O)OC | C2H3ClO2
solvent | 1,2-dichloroethane | 10 g | ClCCCl | C2H4Cl2
product | 7-fluoro-6-methoxycarbonylamino-4-propargyl-2H-1,4-benzoxazin-3(4H)-one | 2.0 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1NC(=O)OC | C13H11FN2O4
